* source CONTADOR
X_U1         N00867 $D_HI $D_HI $D_HI N00685 $D_LO $D_LO $D_HI $D_LO M_UN0001
+  M_UN0002 M_UN0003 M_UN0004 N00495 $G_DPWR $G_DGND 74LS163A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2         N00495 $D_HI $D_HI $D_HI N00673 $D_HI $D_HI $D_HI $D_LO M_UN0005
+  M_UN0006 M_UN0007 M_UN0008 N00507 $G_DPWR $G_DGND 74LS163A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N00495 N00495 N00685 $G_DPWR $G_DGND 74LS00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N00507 N00507 N00673 $G_DPWR $G_DGND 74LS00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N00867 IO_STM IO_LEVEL=0 
+ 0 0
+ +1.42857uS 1
+REPEAT FOREVER
+ +1.42857uS 0
+  +1.42857uS 1
+ ENDREPEAT
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND M_UN0009 IO_STM IO_LEVEL=0 
+ 0 0
+ +1.11111uS 1
+REPEAT FOREVER
+ +1.11111uS 0
+  +1.11111uS 1
+ ENDREPEAT
