* source CHEBY_CUAD1
V_V2         V+ 0 12Vdc
R_R3_1         N11356 N11372  {R3}  
V_V3         0 V- 12Vdc
X_U8         0 N11372 V+ V- VO1 AD817A/AD
C_C2         0 N11356  560n  
C_C5         N11372 VO1  1n  
R_R1_1         VI N11356  {R1}  
V_V1         VI 0 DC 0Vdc AC 1Vac 
R_R4         N11356 VO1  21k  
.PARAM  R1=18.55k R3=1.52k
