* source CHEBY_DESIGN_B5
C_C5         N00626 VO_CUAD1  1n  
R_R8         N18899 N01009  10.86k  
R_R11         VO_CUAD2 VO_LINEAL  977  
X_U3         VO_LINEAL N32163 V+ V- VOUT AD817A/AD
R_R1         VI N18984  18.55k  
R_R14         N32163 VOUT  79.13k  
R_R4         N18984 VO_CUAD1  21k  
C_C12         0 VO_LINEAL  470n  
R_R3         N18984 N00626  1.52k  
V_V1         VI 0 DC 0Vdc AC 1Vac 
R_R12         0 N32163  10k  
C_C7         0 N18899  39n  
V_V2         V+ 0 12Vdc
X_U1         0 N00626 V+ V- VO_CUAD1 AD817A/AD
C_C10         N01009 VO_CUAD2  2.2n  
R_R6         VO_CUAD1 N18899  43.91k  
V_V3         0 V- 12Vdc
X_U2         0 N01009 V+ V- VO_CUAD2 AD817A/AD
C_C2         0 N18984  560n  
R_R9         N18899 VO_CUAD2  44k  
